US03948996
Sodium methoxide (1.2 g. of sodium and 30 ml. of methanol) is added slowly to a mixture of 6.4 g. of 7-methylthio-3,7-dimethyloctan-1-al and 10 g. of diethyl 3-methoxycarbonyl-2-methylprop-2-enyl phosphonate (about 77% trans) in 50 ml. of dimethylformamide, under nitrogen and at about 0°, with stirring. After addition is complete, the reaction is left 3 hours at room temperature and worked up by extraction with hexane/ether to yield cis/trans methyl 11-methylthio-3,7,11-trimethyldodeca-2,4-dienoate mostly the trans, trans isomer.

reactant | Sodium methoxide | 30 ml, 1.2 g | C[O-].[Na+]
reactant | 7-methylthio-3,7-dimethyloctan-1-al | CSC(CCCC(CC=O)C)(C)C | C11H22OS
reactant | dimethylformamide | CN(C=O)C | C3H7NO
product | trans methyl 11-methylthio-3,7,11-trimethyldodeca-2,4-dienoate | CSC(CCCC(C/C=C/C(=CC(=O)OC)C)C)(C)C | C17H30O2S
